US05488054
Step A. 2-(Pyridin-2-ylmethoxy)-isoindole-1,3-dione
Under anhydrous conditions (positive nitrogen pressure, presence of 3Å molecular sieves), a mixture of N-hydroxyphthalimide (10.0 g, 0.061 mole), 2-picolylchloride hydrochloride (10.0 g, 0.061 mole), and triethylamine (18.5 g, 0.183 mol) in 100 ml of anhydrous acetonitrile was refluxed for 6 hours. After overnight stirring at ambient temperature, TLC showed that the starting materials were practically consumed. The solvent was evaporated and the residue dissolved in 200 ml of EtOAc. The solution was washed with 1N NaOH (100 ml), water (2×200 ml), brine (1×200 m ml) and dried (MgSO4). After removal of the solvent, the crude product was recrystallized from EtOAc/hexane to afford 11.4 g (73.6%) of title product.

reactant | N-hydroxyphthalimide | 0.061 mole, 10.0 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 2-picolylchloride hydrochloride | 0.061 mole, 10.0 g | Cl.N1=C(C=CC=C1)CCl
reactant | triethylamine | 0.183 mol, 18.5 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-(Pyridin-2-ylmethoxy)-isoindole-1,3-dione | 11.4 g, 73.6% | N1=C(C=CC=C1)CON1C(C2=CC=CC=C2C1=O)=O | C14H10N2O3
